US07674765B2
100 kg of 8-cyclohexadecenone (odoriferously good quality: GC ratio of (E) and (Z) isomers was 2.5:1), 45 kg of acetone and 100 g of palladium on activated charcoal (Pd content: 5 wt. %) with 40% water content were placed in a stirred autoclave equipped with a gassing stirrer. The reaction mixture was hydrogenated for 12 hours at 35° to 40° C. and at 15 bar hydrogen pressure and then filtered. After removing the acetone 99.2 kg of cyclohexadecanone were obtained (GC content of cyclohexadecanone: >98%). The product thereby obtained was of a good perfumery quality. The perfumery quality could be improved still further by recrystallisation from methanol.

reactant | 8-cyclohexadecenone | 100 kg | C1(CCCCCCC=CCCCCCCC1)=O | C16H28O
reactant | acetone | 45 kg | CC(=O)C | C3H6O
reactant | hydrogen | [H][H] | H2
catalyst | palladium on activated charcoal | 100 g | [Pd] | Pd
solvent | water | O | H2O
product | cyclohexadecanone | C1(CCCCCCCCCCCCCCC1)=O | C16H30O
